US05981533
4-(3-Chloro-phenylamino)-3-(4-ethoxy-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine
A mixture of 5.8 g (19.44 mmol) of 4-cyano-5-(dimethylamino-methyleneamino)-3-(4-ethoxy-phenylamino)-pyrazole, 3.51 g (21.4 mmol) of 3-chloro-aniline hydrochloride and 40 ml of methanol is heated under reflux for 15 hours. Cooling to 10° C., filtering and washing the filter residue with methanol and diethyl ether yield the title compound; m.p. 232-233° C.; EI-MS: (M)+ =380.

reactant | 4-cyano-5-(dimethylamino-methyleneamino)-3-(4-ethoxy-phenylamino)-pyrazole | 19.44 mmol, 5.8 g | C(#N)C=1C(=NNC1N=CN(C)C)NC1=CC=C(C=C1)OCC | C15H18N6O
reactant | 3-chloro-aniline hydrochloride | 21.4 mmol, 3.51 g | Cl.ClC=1C=C(N)C=CC1
solvent | methanol | 40 ml | CO | CH4O
product | 4-(3-Chloro-phenylamino)-3-(4-ethoxy-phenylamino)-1H-pyrazolo[3,4-d]-pyrimidine | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2NC2=CC=C(C=C2)OCC | C19H17ClN6O
